US06921763B2
N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (250 mg, 0.503 mmol), acetaldehyde (44 mg, 1.007 mmol) and sodium triacetoxyborohydride (212 mg, 1.007 mmol) were mixed in 1,2-dichloroethane (6 mL). The reaction mixture was stirred at room temperature overnight. The solvent was removed and the residue was purified by reverse phase preparative HPLC using acetonitrile/water (50 mM ammonium acetate buffer) as mobile phase to give N2-{4-[4-amino-1-(1-ethyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (247 mg, 93%). 1H NMR (DMSO-d6) δ 1.04 ((t, J=7.15 Hz, 3H), 1.92 (m, 2H), 2.08 (m, 2H), 2.25 (m, 2H), 2.40 (q, J=7.15 Hz, 2H), 3.03 (m, 2H), 3.96 (s, 3H), 4.04 (s, 3H), 4.68 (m, 1H), 7.13 (m, 1H), 7.33 (m, 4H), 7.58 (d, J=8.00 Hz, 1H), 7.70 (d, J=7.95 Hz, 1H), 8.11 (d, J=8.15 Hz, 1H), 8.25 (s, 1H), 9.44 (s, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, PH 4.5), 0.8 mL/min.): RT=2.08 min. MH+=525.3.

reactant | N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.503 mmol, 250 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | acetaldehyde | 1.007 mmol, 44 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.007 mmol, 212 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
product | N2-{4-[4-amino-1-(1-ethyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 247 mg, 93% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCN(CC2)CC | C29H32N8O2
